US05202440
9-Amino-1,2,3,4,5,6,7,8-octahydro-1,4-methanoacridine
To a stirred solution of norcamphor (0.9 g, 8.2 mmole) in methylene chloride (8.0 ml) at -20° C., a mixture of triethylamine (1.7 g, 16.4 mmole) and 2-amino-1-cyano-1-cyclohexene (1.0 g, 8.2 mmole) in methylene chloride (24 ml) was added and the resulting mixture was stirred at 25° C. for 15 hours. The reaction mixture was then quenched with 12% aqueous NaCH (60 ml) and was stirred vigorously with methylene chloride (60 ml). The reaction mixture was then filtered through a 2" pad of diatomaceous earth (Celite (trademark)). The organic phase was separated, washed with water (2×50 ml) and then dried (anhydrous MgSO4). Methylene chloride was then removed under reduced pressure to afford an oil which was triturated with pentane to give the title compound as a off-white solid (225 mg, 13%, m.p. 131°-133° C.). 1H-NMR (CDCl3, 300 MHz, δ): 2H, m, 1.15-2.38 ppm; 1H, d, 1.5 ppm; 7H, m, 165-2.0 ppm; 2H, bs, 2.4 ppm; 2H, bd, 2.8 ppm; 2H, bd 3.3 ppm; 2H, s, 3.95 ppm. HRMS: Calculated--214.3096; Found--214.1466. TLC: (90:10:1-methylene chloride: methanol:28% aqueous ammonia) Rf =0.25

reactant | norcamphor | 8.2 mmole, 0.9 g | C1CC2CC1CC2=O | C7H10O
reactant | triethylamine | 16.4 mmole, 1.7 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-1-cyano-1-cyclohexene | 8.2 mmole, 1.0 g | NC1=C(CCCC1)C#N | C7H10N2
solvent | methylene chloride | 8.0 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 24 ml | C(Cl)Cl | CH2Cl2
product | 9-Amino-1,2,3,4,5,6,7,8-octahydro-1,4-methanoacridine | 225 mg, 13% | NC=1C=2CCCCC2N=C2C3CCC(C12)C3 | C14H18N2
